US07910734B2
2-(3,3,5,5-Tetramethylcyclohexyl)phenylamine oxalate (4.52 g, 14.1 mmol) was suspended in t-butyl methyl ether (45 mL), and a 1N aqueous solution of potassium hydroxide (16.9 mL) was added, followed by stirring at room temperature for 50 minutes. To the reaction mixture were added t-butyl methyl ether (15 mL) and water (25 mL), and the reaction mixture was stirred at room temperature, and the organic layer was separated. The organic layer was washed with water (23 mL) four times, the solvent was removed under reduced pressure to give 3.18 g of 2-(3,3,5,5-tetramethylcyclohexyl)phenylamine as a red oil.

reactant | 2-(3,3,5,5-Tetramethylcyclohexyl)phenylamine oxalate | 14.1 mmol, 4.52 g | C(C(=O)O)(=O)O.CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N)C
reactant | potassium hydroxide | 16.9 mL | [OH-].[K+]
reactant | water | 25 mL | O | H2O
solvent | t-butyl methyl ether | 45 mL | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 15 mL | COC(C)(C)C | C5H12O
product | 2-(3,3,5,5-tetramethylcyclohexyl)phenylamine | 3.18 g | CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N)C | C16H25N
